US07314886B2
49.B. Synthesis of 2-(9-Benzyl-1,8-diethyl-1,3,4,9-tetrahydro-pyrano[3,4-b]indol-1-yl)-ethanol
To a solution of (9-benzyl-1,8-diethyl-1,3,4,9-tetrahydro-pyrano[3,4-b]indol-1-yl)-acetic acid (0.45 g, 1.2 mmol) in tetrahydrofuran at room temperature was added 1.0 M solution of borane-tetrahydrofuran complex in tetrahydrofuran and it was stirred at 90° C. for 4 hours. The mixture was quenched with 5% HCl solution and stirred at room temperature for 20 minutes. It was extracted with ethyl acetate and washed with saturated sodium bicarbonate. The extracts were dried over magnesium sulfate and evaporated to dryness. Flash chromatography on silica gel provided 0.321 g (74%) of the title compound as a solid. 1H NMR (500 MHz, CDCl3) δ 7.17 (m, 3H), 6.94 (d, 1H), 6.84 (m, 2H), 6.70 (t, 1H), 6.56 (d, 1H), 3.87 (m, 1H), 3.79 (m, 1H), 3.68 (dt, 1H), 3.64 (br, 1H), 3.41 (td, 1H), 2.93 (q, 2H), 2.43 (q, 2H), 2.04 (m, 1H), 1.93 (dt, 1H), 1.86 (m, 1H), 1.77 (m, 1H), 1.49 (m, 1H), 1.38 (m, 1H), 1.17 (t, 3H), 0.70 (t, 3H)

reactant | (9-benzyl-1,8-diethyl-1,3,4,9-tetrahydro-pyrano[3,4-b]indol-1-yl)-acetic acid | 1.2 mmol, 0.45 g | C(C1=CC=CC=C1)N1C2=C(C3=CC=CC(=C13)CC)CCOC2(CC)CC(=O)O | C24H27NO3
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-(9-Benzyl-1,8-diethyl-1,3,4,9-tetrahydro-pyrano[3,4-b]indol-1-yl)-ethanol | 0.321 g, 74% | C(C1=CC=CC=C1)N1C2=C(C3=CC=CC(=C13)CC)CCOC2(CC)CCO | C24H29NO2
